### PR TITLE
feat(Algebra/WContractible): w-localness and π₀-equivalence of `Restriction`

### PR DESCRIPTION
**Pull request by chrisflav**
## Summary

Adds two new API lemmas to `WContractification.Restriction` in `Proetale/Algebra/WContractible.lean`, ported from the `archon` branch and using the just-landed `range_algebraMap_specComap`/`isClosedEmbedding_algebraMap_specComap` (PR #125):

- `WContractification.Restriction.instIsWLocalRing`: if `A` is w-local, then `Restriction T` is w-local (one-liner via the existing `IsWLocalRing.of_surjective` + `algebraMap_surjective`).
- `WContractification.Restriction.connectedComponentsEquiv`: if `A` is w-local and `T ⊆ π₀(Spec A)` is closed, the connected components of `Spec (Restriction T)` are canonically homeomorphic to `T`. The map is the lift of `q ↦ ⟨π₀(comap q), …⟩`; surjectivity uses `range_algebraMap_specComap`, injectivity uses the inducing-image preconnectedness criterion against `connectedComponent x`, and the equiv is bundled to a homeomorphism via `Continuous.homeoOfEquivCompactToT2`.

Both are building blocks for the w-contractification construction (Stacks 097D / 0983, blueprint `def:modify-pi0-profinite`). They are part of the same `Restriction` API as `thm:colim-open-closed-localizations-surj-ind-zariski` in the blueprint (`local-structure.tex`).

This PR also includes a one-line chore that adds the missing imports for `Proetale/Pro/Generating.lean` and `Proetale/Mathlib/CategoryTheory/Limits/Preserves/Shapes/Multiequalizer.lean` to `Proetale.lean` (introduced by #128 without the umbrella update).

## Test plan
- [x] `lake build Proetale.Algebra.WContractible` succeeds (no new warnings, no sorries).
- [x] `bash .agent/validation.sh` passes (`mk_all --check` + full `lake build --wfail`).

### CODE REVIEW

File: Proetale/Algebra/WContractible.lean [hunk 1]
```diff
@@ -239,6 +239,60 @@ lemma isClosedEmbedding_algebraMap_specComap :
...
+    (ConnectedComponents.continuous_coe.comp hce.continuous).subtype_mk _
+  let ψ : ConnectedComponents (PrimeSpectrum (Restriction T)) → T :=
+    Continuous.connectedComponentsLift hφ_cont
+  have hψ_cont : Continuous ψ := Continuous.connectedComponentsLift_continuous _
+  have hsurj : Function.Surjective ψ := by
+    rintro ⟨t, ht⟩
+    obtain ⟨x, rfl⟩ := ConnectedComponents.surjective_coe t
+    obtain ⟨q, hq⟩ : x ∈ Set.range f := hrange ▸ ht
+    exact ⟨ConnectedComponents.mk q, by simp [ψ, φ, hq]⟩
+  have hinj : Function.Injective ψ := by
```
Comment (chrisflav) [inline Proetale/Algebra/WContractible.lean]: Make the map `ψ` a separate definition and state injectivity and surjectivity as lemmas. Also show `IsHomeomorph`. Then define this map using these helpers.

File: Proetale/Algebra/WContractible.lean [hunk 2]
```diff
@@ -239,6 +239,81 @@ lemma isClosedEmbedding_algebraMap_specComap :
...
+
+/-- Auxiliary `T`-valued map underlying `connectedComponentsMap`. -/
+private def connectedComponentsMapAux (h : IsClosed T) :
+    PrimeSpectrum (Restriction T) → T :=
+  fun q ↦ ⟨ConnectedComponents.mk (PrimeSpectrum.comap (algebraMap A (Restriction T)) q),
+    show _ ∈ ConnectedComponents.mk ⁻¹' T from
+      range_algebraMap_specComap h ▸ Set.mem_range_self q⟩
+
+private lemma continuous_connectedComponentsMapAux (h : IsClosed T) :
+    Continuous (connectedComponentsMapAux h) :=
```
Comment (chrisflav) [inline Proetale/Algebra/WContractible.lean]: Inline these two steps in the construction of `connectedComponentsMap`, also add a lemma showing the value of `connectedComponentsMap` applied to an element of `PrimeSpectrum (Restriction T)`

File: Proetale/Algebra/WContractible.lean [hunk 3]
```diff
@@ -239,6 +239,72 @@ lemma isClosedEmbedding_algebraMap_specComap :
   PrimeSpectrum.isClosedEmbedding_comap_of_surjective (Restriction T)
     (algebraMap A (Restriction T)) (algebraMap_surjective T)
 
+/-- If `A` is w-local, then `Restriction T` is w-local. This is part of Stacks 097D. -/
```
Comment (jjdishere) [inline Proetale/Algebra/WContractible.lean:242]: use `@[stacks]` with some comments in it.

File: Proetale/Algebra/WContractible.lean [hunk 4]
```diff
@@ -239,6 +239,72 @@ lemma isClosedEmbedding_algebraMap_specComap :
...
+
+/-- The natural map from the connected components of `Spec (Restriction T)` to `T`. -/
+def connectedComponentsMap (h : IsClosed T) :
+    ConnectedComponents (PrimeSpectrum (Restriction T)) → T :=
+  ((ConnectedComponents.continuous_coe.comp
+        isClosedEmbedding_algebraMap_specComap.continuous).subtype_mk
+      fun q ↦ (range_algebraMap_specComap h ▸ Set.mem_range_self q :
+        _ ∈ ConnectedComponents.mk ⁻¹' T)).connectedComponentsLift
+
+@[simp]
```
Comment (jjdishere) [inline Proetale/Algebra/WContractible.lean:254]: this should not be simp

File: Proetale/Algebra/WContractible.lean [hunk 5]
```diff
@@ -239,6 +239,72 @@ lemma isClosedEmbedding_algebraMap_specComap :
...
+lemma connectedComponentsMap_mk (h : IsClosed T) (q : PrimeSpectrum (Restriction T)) :
```
Comment (jjdishere) [inline Proetale/Algebra/WContractible.lean:255]:
```suggestion
lemma coe_connectedComponentsMap_mk (h : IsClosed T) (q : PrimeSpectrum (Restriction T)) :
```

File: Proetale/Algebra/WContractible.lean [hunk 6]
```diff
@@ -239,6 +239,72 @@ lemma isClosedEmbedding_algebraMap_specComap :
...
+    IsHomeomorph (connectedComponentsMap h) :=
+  Homeomorph.isHomeomorph <| Continuous.homeoOfEquivCompactToT2
+    (f := Equiv.ofBijective _
+      ⟨injective_connectedComponentsMap h, surjective_connectedComponentsMap h⟩)
+    (continuous_connectedComponentsMap h)
+
+/-- If `T ⊆ π₀(Spec A)` is closed, then the connected components of `Spec (Restriction T)` are
+canonically homeomorphic to `T`. This is the identification used in the construction of the
+w-contractification (Stacks 097D, `def:modify-pi0-profinite`). -/
+def connectedComponentsHomeo (h : IsClosed T) :
```
Comment (jjdishere) [inline Proetale/Algebra/WContractible.lean:304]:
```suggestion
def connectedComponentsHomeomorph (h : IsClosed T) :
```

Comment (jjdishere) [reply Proetale/Algebra/WContractible.lean:304]: Please find in the blueprint if some leanok can be add.

**Comment by jjdishere** [comment]
orchestra address review
